US04789680
In a manner analogous to that described in Example 14, starting from 11.8 g (50 mmol) of 1-(o-chlorobenzyl)-1H-1,2,3-triazole-4-carboxylic acid, converting this into the acid chloride and treating the latter with piperidine (50 mmol), there is obtained 1-(o-chlorobenzyl)-1H-1,2,3-triazole-4-carboxylic acid piperidide having a melting point of 141°-142° (from ethanol) and, by treating the acid chloride with dimethylamine (50 mmol), there is obtained 1-(o-chlorobenzyl)-1H-1,2,3-triazole-4-carboxylic acid N,N-dimethylamide having a melting point of 120°-121° (from ethanol).

reactant | 1-(o-chlorobenzyl)-1H-1,2,3-triazole-4-carboxylic acid | 50 mmol, 11.8 g | ClC1=C(CN2N=NC(=C2)C(=O)O)C=CC=C1 | C10H8ClN3O2
reactant | piperidine | 50 mmol | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 1-(o-chlorobenzyl)-1H-1,2,3-triazole-4-carboxylic acid piperidide | ClC1=C(CN2N=NC(=C2)C(=O)N2CCCCC2)C=CC=C1 | C15H17ClN4O
